US05334576
Preparation of 5-allylpyridine-2,3-dicarboxylic anhydride
A mixture of 7 g of crude 5-allylpyridine-2,3-dicarboxylic acid, 9.8 mL acetic anhydride, and 3.3 mL pyridine in 100 mL dry 1,2-dimethoxyethane is stirred under nitrogen and heated at 65° for 1 hour. After adding an additional 1 mL of acetic anhydride, the reaction is heated for 2 hours at 65°, then at reflux overnight. The reaction mixture is filtered, and the solids are washed with ether and ethyl acetate. The combined filtrates are concentrated in vacuo and reevaporated from xylenes to afford the product as a solid.

reactant | 5-allylpyridine-2,3-dicarboxylic acid | 7 g | C(C=C)C=1C=C(C(=NC1)C(=O)O)C(=O)O | C10H9NO4
reactant | acetic anhydride | 9.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 3.3 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
product | 5-allylpyridine-2,3-dicarboxylic anhydride | C(C=C)C=1C=C2C(=NC1)C(=O)OC2=O | C10H7NO3
